US06712918B2
Preparation of Copper Diammonium Bitetrazole Via Reaction (3), Above
In this Example, 60.87 grams of diammonium bitetrazole were suspended in 120 ml of deionized water. Subsequently, 39.13 grams of basic copper carbonate were added to the reaction mixture. The resulting reaction mixture was heated to 90° C. and continued to be heated and stirred for approximately 1 hour. A solid was formed that was filtered, washed with water, filtered again and then vacuum oven dried at 80° C. The resulting solid was in a yield of 85.95 grams as compared to the theoretical yield of 83.86 grams. (NOTE: The greater than theoretical yield is believed attributable to incomplete conversion of the starting materials during processing.) TABLE 2, below, identifies the elemental chemical analysis of the material formed as well as the elemental chemical analysis for a corresponding theoretical composition of CuC2H6N10. The x-ray diffraction pattern obtained for a powder sample of the material of Example 2 is shown in FIG. 2.

reactant | diammonium bitetrazole | 60.87 grams | N1=NN=NC1=C1N=NN=N1.[NH4+].[NH4+]
reactant | copper carbonate | 39.13 grams | C([O-])([O-])=O.[Cu+2]
solvent | water | 120 ml | O | H2O
product | Copper Diammonium Bitetrazole | N1=NN=NC1=C1N=NN=N1.[NH4+].[NH4+].[Cu+2] | InChI=1S/C2N8.Cu.2H3N/c3-1(4-8-7-3)2-5-9-10-6-2;;;/h;;2*1H3/q;+2;;/p+2
